US07772244B2
8-Fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride
tert-Butyl 4-(1-(3-fluoro-2-pivalamidophenyl)-1-hydroxy-3-methoxy-3-oxopropan-2-yl)piperidine-1-carboxylate (7.86 g, 16.4 mmol) was dissolved in methanol (20 mL). Water (45 mL) was added to the mixture followed by concentrated hydrochloric acid (15 mL, 183 mmol). The reaction was heated to reflux and held for 2.5 h. The reaction mixture was concentrated in vacuo, redissolved in ethanol (50 mL), and concentrated in vacuo. The residue was crystallized from ethanol. The resulting solids were filtered, washed with cold ethanol, and dried in vacuo. The title compound was obtained as white solid in 83% yield. 1H NMR (500 MHz, DMSO-d6): δ 11.85 (s, 1H), 8.98 (m, 1H), 8.85 (m, 1H), 7.75 (s, 1H), 7.54 (d, J=7.63, 1H), 7.36 (dd, J=0.22, 8.09, 1H), 7.21-7.11 (m, 1H), 3.41-3.29 (m, 2H), 3.14-2.94 (m, 3H), 2.02 (d, J=13.43, 2H), 1.88-1.71 (m, 2H). Mass spec.: 247.2 (MH)+.

reactant | tert-Butyl 4-(1-(3-fluoro-2-pivalamidophenyl)-1-hydroxy-3-methoxy-3-oxopropan-2-yl)piperidine-1-carboxylate | 16.4 mmol, 7.86 g | FC=1C(=C(C=CC1)C(C(C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)O)NC(C(C)(C)C)=O | C25H37FN2O6
reactant | Water | 45 mL | O | H2O
reactant | hydrochloric acid | 183 mmol, 15 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 8-Fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 83% yield | Cl.FC=1C=CC=C2C=C(C(NC12)=O)C1CCNCC1 | InChI=1S/C14H15FN2O.ClH/c15-12-3-1-2-10-8-11(14(18)17-13(10)12)9-4-6-16-7-5-9;/h1-3,8-9,16H,4-7H2,(H,17,18);1H
